US08357688B2
A mixture of 6.00 g of methyl 3-chloro-2-hydrazinoquinoxaline-6-carboxylate, 2.9 mL of 4-methoxybenzaldehyde, and 150 mL of acetic acid was stirred at room temperature for 3 hours. To the reaction mixture was added 4.74 g of copper(II) acetate, followed by stirring at 100° C. for 3 hours. Water was added thereto at room temperature, and the precipitated solid was collected by filtration and dried under reduced pressure. The obtained mixture was purified by silica gel column chromatography (chloroform/methanol) to obtain 5.27 g of methyl 1-(4-methoxyphenyl)-4-oxo-4,5-dihydro[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylate.

reactant | methyl 3-chloro-2-hydrazinoquinoxaline-6-carboxylate | 6.00 g | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)NN | C10H9ClN4O2
reactant | 4-methoxybenzaldehyde | 2.9 mL | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
catalyst | copper(II) acetate | 4.74 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | Water | O | H2O
product | methyl 1-(4-methoxyphenyl)-4-oxo-4,5-dihydro[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylate | 5.27 g | COC1=CC=C(C=C1)C1=NN=C2N1C1=CC=C(C=C1NC2=O)C(=O)OC | C18H14N4O4
